US06559145B2
Methyl 4-oxo-4,5,6,7-tetrahydro-1-benzothiophene-5-carboxylate [BI.2]
n-Butyl lithium (2.5 M, 15.8 mL) is added dropwise via syringe to a solution of diisopropyl amine (55 mL) in anhydrous THF (20 mL) at −10° C. under an atmosphere of nitrogen. After stirring for 30 min at this temperature, the solution is cooled to −78° C. and a solution of containing 6,7-dihydro-1-benzthiophen-4(5H)one (BI.1, 5.00 g) in anhydrous THF (20 mL) is added dropwise over 15 minutes. The solution is warmed to 0° C. and stirred for one hour at that temperature. After re-cooling to −78° C., HMPA (5.7 mL) and methyl-cyanoformate (3.1 mL) are sequentially added. The solution is stirred for 10 minutes at −78° C. The reaction mixture is quickly poured into cold water (100 mL) and extracted with ether (250 mL). The organic phase is washed with brine, dried over Na2SO4, filtered, and concentrated to give a red oil. This oil is chromatographed on a Biotage column eluting with 0-30% ethyl acetate in heptane (500 mL each 10%) to give 3.87 g (56%) of the title compound as a white solid. Physical characteristics. Mp. 85-86° C.; MS (ESI+) m/z 211.0 (M+H)+; HRMS (FAB) m/z 211.0425 (C10H10O3S+H). Anal. Found: C, 57.15; H, 4.84.

reactant | n-Butyl lithium | 2.5 M, 15.8 mL | C(CCC)[Li]
reactant | diisopropyl amine | 55 mL | C(C)(C)NC(C)C | C6H15N
reactant | 6,7-dihydro-1-benzthiophen-4(5H)one | 5.00 g | S1C=CC2=C1CCCC2=O | C8H8OS
reactant | methyl-cyanoformate | 3.1 mL | COC(=O)C#N | C3H3NO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | water | 100 mL | O | H2O
solvent | HMPA | 5.7 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
product | Methyl 4-oxo-4,5,6,7-tetrahydro-1-benzothiophene-5-carboxylate | 3.87 g, 56% | O=C1C(CCC2=C1C=CS2)C(=O)OC | C10H10O3S
